US06777422B2
A. (R)-2-Methyl-N-(2-phenyl-propyl)-benzamide
A mixture of (R)-2-phenylpropyl amine (1.24 g; 9.17 mmol), 1N NaOH (20 mL), and dichloromethane (20 mL) is treated with o-toluoyl chloride (1.42 g; 9.17 mmol) added dropwise; the mixture is then stirred at room temperature for 1 hour. The phases are separated and the aqueous layer extracted with dichloromethane (2×70 ml). The combined extracts are washed with water (1×30 mL) and brine (1×30 mL), dried over magnesium sulfate, and evaporated to give the product as a white solid.

reactant | (R)-2-phenylpropyl amine | 9.17 mmol, 1.24 g | C1(=CC=CC=C1)[C@H](CN)C | C9H13N
reactant | NaOH | 1N, 20 mL | [OH-].[Na+]
reactant | o-toluoyl chloride | 9.17 mmol, 1.42 g | C=1(C(=CC=CC1)C(=O)Cl)C | C8H7ClO
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | (R)-2-Methyl-N-(2-phenyl-propyl)-benzamide | CC1=C(C(=O)NC[C@H](C)C2=CC=CC=C2)C=CC=C1 | C17H19NO
